US08039495B2
A solution of 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester (18.96 g, 50.92 mmol) in inhibitor free THF (100 mL) was treated with a near solution of lithium hydroxide monohydrate (8.4 g, 200.2 mmol) in water (100 mL) at room temperature and heated at 60° C. for 4 h. The reaction mixture was cooled, diluted with water, acidified with aq. 2N HCl and extracted with ethyl acetate. The organic layers were combined, washed with 1/1 water/brine, brine, dried (MgSO4), filtered and concentrated to give 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid (17.89 g, 98.0%) as an off white solid. LC-MS (ES) calculated for C20H13F3O3, 358.32; found m/z 357 [M−H]−.

reactant | 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 50.92 mmol, 18.96 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)F)=O | C21H15F3O3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide monohydrate | 200.2 mmol, 8.4 g | O.[OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-benzoic acid | 17.89 g, 98.0% | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C20H13F3O3
